US08669266B2
(v) 4-[(S)-4-Carboxy-2-({4-[2-((S)-2-cyclopropylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-naphthalene-2-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid ethyl ester
To a solution of 100 mg of (S)-1-(2-Bromo-acetyl)-pyrrolidine-2-carboxylic acid cyclopropylamide and 93 mg of 4-{(S)-4-tert-Butoxycarbonyl-2-[(4-hydroxy-naphthalene-2-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester in 2 ml of DMF, 118 mg of cesium carbonate was added and the reaction mixture was heated to 80° C. for 5 h. Then, the reaction mixture was diluted with water and filtered through a chem Elut® cartridge by eluting with ethyl acetate. The solvents were removed under reduced pressure and the residue was dissolved in 1 ml of DCM and 0.2 ml of TFA. After 16 h at RT 10 ml of toluene was added and the solvents were removed under reduced pressure. The residue was purified by preparative HPLC (C18 reverse phase column, elution with a water/MeCN gradient with 0.1% TFA). The fractions containing the product were evaporated and lyophilized to yield a white solid. Yield: 40 mg MS (ES+): m/e=652.

reactant | (S)-1-(2-Bromo-acetyl)-pyrrolidine-2-carboxylic acid cyclopropylamide | 100 mg | C1(CC1)NC(=O)[C@H]1N(CCC1)C(CBr)=O | C10H15BrN2O2
reactant | 4-{(S)-4-tert-Butoxycarbonyl-2-[(4-hydroxy-naphthalene-2-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester | 93 mg | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=CC2=CC=CC=C2C(=C1)O)=O | C27H35N3O7
reactant | cesium carbonate | 118 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-[(S)-4-Carboxy-2-({4-[2-((S)-2-cyclopropylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-naphthalene-2-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)O)NC(=O)C1=CC2=CC=CC=C2C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CC1)=O)=O | C33H41N5O9
